US08071581B2
Step 2: 2-Fluoro-4-(6-hydrazino-pyridazin-3-yl)-N-methyl-benzamide
A solution of 4-(6-chloro-pyridazin-3-yl)-2-fluoro-N-methyl-benzamide 34 g (128 mmol) in 500 mL of dry pyridine was cooled in an ice bath and 43.5 mL of hydrazine hydrate was added. The cooling was continued so as to keep the temperature below 30° C. at which time yellow needle separated. The mixture was then heated to 65° C. and stirred overnight. The mixture was filtered and the solid washed with water and Methanol to return the title compound (28.8 g, 84% yield) as a light yellow solid. 1H NMR (300 MHz, DMSO-d6): δ (ppm): 8.27 (s, 2H), 7.96˜7.99 (d, 1H), 7.86˜7.92 (m, 2H), 7.69˜7.75 (m, 1H), 7.09˜7.12 (d, 1H), 4.42 (s, 2H), 2.78˜2.80 (d, 3H); MS (m/z): 262.1 [M++1].

reactant | 4-(6-chloro-pyridazin-3-yl)-2-fluoro-N-methyl-benzamide | 128 mmol, 34 g | ClC1=CC=C(N=N1)C1=CC(=C(C(=O)NC)C=C1)F | C12H9ClFN3O
reactant | hydrazine hydrate | 43.5 mL | O.NN
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
product | 2-Fluoro-4-(6-hydrazino-pyridazin-3-yl)-N-methyl-benzamide | 28.8 g, 84% yield | FC1=C(C(=O)NC)C=CC(=C1)C=1N=NC(=CC1)NN | C12H12FN5O
